US08334456B2
Step 1: Preparation of 4,8-dioctylbenzo[1,2-b:4,5-b′]dithiophene.
To a 100 mL flask under nitrogen was added 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione (1.1 g, 5.0 mmol) and anhydrous THF (10 mL). The mixture was heated to reflux and octylmagnesium bromide (20 mmol, 10 mL, 2.0 M in Et2O) was added dropwise. After refluxing for 2 hours more, SnCl2 solution (7.3 g in 19 mL 10% HCl) was slowly added dropwise. The mixture was kept at 60° C. for 1 hour. After cooling down, the organic phase was separated. The water phase was extracted with ether once and the organic phases were combined and dried over Na2SO4. Purification by column chromatography with hexane as eluent gave a yellow oil (780 mg, yield 37.6%). 1H NMR (CDCl3, 500 MHz) δ=7.48 (d, J=5.5 Hz, 2H), 7.47 (d, J=5.5 Hz, 2H), 3.20 (t, J=7.5 Hz, 4H), 1.75-1.88 (m, 4H), 1.43-1.54 (m, 4H), 1.21-1.42 (bs, 16H), 0.90 (t, J=7.0 Hz, 6H).

reactant | 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 5.0 mmol, 1.1 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | octylmagnesium bromide | 20 mmol, 2.0 M, 10 mL | C(CCCCCCC)[Mg]Br
reactant | SnCl2 | 19 mL, 7.3 g | Cl[Sn]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,8-dioctylbenzo[1,2-b:4,5-b′]dithiophene | 780 mg, yield 37.6% | C(CCCCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCCCC | C26H38S2
